US05081238
To a solution of 3.18 g (19.2 mmol) of (-)-3-t-butyldimethylsilyloxybutyric acid and 2.26 ml (22 mmol) of thiophenol dissolved in 100 ml of methylene chloride, 4.53 g (22 mmol) of N,N'-dicyclohexylcarbodiimide was added. After stirring the mixture at room temperature for 2 hours, the resultant was filtered and the filtrate was concentrated and distilled (110° to 116° C./0.3 mmHg) to give 5.00 g of (-)-3-t-butyldimethylsilyloxybutyric acid phenylthio ester (yield: 83%).

reactant | (-)-3-t-butyldimethylsilyloxybutyric acid | 19.2 mmol, 3.18 g | [Si](C)(C)(C(C)(C)C)OC(CC(=O)O)C | C10H22O3Si
reactant | thiophenol | 22 mmol, 2.26 ml | C1(=CC=CC=C1)S | C6H6S
reactant | N,N'-dicyclohexylcarbodiimide | 22 mmol, 4.53 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (-)-3-t-butyldimethylsilyloxybutyric acid phenylthio ester | 5.00 g, yield: 83% | C1(=CC=CC=C1)SOC(CC(C)O[Si](C)(C)C(C)(C)C)=O | C16H26O3SSi
